US08865726B2
A suspension of (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-N′-(1-iminoethyl)benzohydrazide (0.049 g, 0.104 mmol) in 1:1 DCM-acetonitrile (10 mL) was treated with carbon tetrachloride (0.040 mL, 0.414 mmol), triethylamine (0.1442 mL, 1.035 mmol) and triphenylphosphine (0.1086 g, 0.414 mmol) at ambient temperature. The mixture was heated at 50° C. for 2 hours. After cooing to ambient temperature, the mixture was treated with EtOAc, washed with water, dried (phase separator silicone treated filter paper), concentrated and purified on silica gel (2-5% MeOH in DCM) to provide (S)-4-(4-fluorophenyl)-3-(3-(4-(5-methyl-4H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.003 g, 6% yield) as a yellow oil. LCMS (APCI+) m/z 456 [M+H]+.

reactant | (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-N′-(1-iminoethyl)benzohydrazide | 0.104 mmol, 0.049 g | FC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)NNC(C)=N)C=C2 | C24H20FN7O3
reactant | carbon tetrachloride | 0.414 mmol, 0.040 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triethylamine | 1.035 mmol, 0.1442 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.414 mmol, 0.1086 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM acetonitrile | 10 mL | C(Cl)Cl.C(C)#N
product | (S)-4-(4-fluorophenyl)-3-(3-(4-(5-methyl-4H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.003 g, 6% yield | FC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN=C(N2)C | C24H18FN7O2
